US06864265B2
To a stirred solution of 2,4,6-collidine (3.22 g, 26.6 mmol) in glacial acetic acid (21 mL) at room temperature was added 30% H2O2 (3.0 mL) and the resultant solution was heated to 70° C. After 6 hours, the reaction mixture was cooled to room temperature, additional H2O2 (3.0 mL) was added, and the solution was heated at 70° C. overnight. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. The residue was dissolved in CHCl3 (50 mL) and treated with solid Na2CO3 (9.9 g). After 1 hour, the supernatant was decanted and the residue was washed with warm CHCl3 (3×75 mL). The combined supernatants were filtered and concentrated to provide 2.43 g as a yellow oil. The oil was dissolved in acetic anhydride (22.5 mL) and heated at 90° C. overnight. The mixture was cooled to room temperature and concentrated. The crude product was purified by flash chromatography (40 g silica gel, 2:1 hexanes/ethyl acetate) to give 1.05 g (24%) of 2-acetoxymethyl-4,6-dimethylpyridine: 1H NMR (CDCl3) □ 2.31 (s, 3H), 2.35 (s, 3H), 2.51 (s, 3H), 5.14 (s, 2H), 6.92 (s, 1H), 6.97 (s, 1H); and 0.35 g (8%) of 4-acetoxymethyl-2,5-dimethylpyridine: 1H NMR (CDCl3) □ 2.15 (s, 3H), 2.53 (s, 6H), 5.04 (s, 2H), 6.92 (s, 2H).

reactant | 2,4,6-collidine | 26.6 mmol, 3.22 g | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | H2O2 | 3.0 mL | OO | H2O2
reactant | H2O2 | 3.0 mL | OO | H2O2
reactant | acetic acid | 21 mL | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 22.5 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetoxymethyl-4,6-dimethylpyridine | 1.05 g, 24% | C(C)(=O)OCC1=NC(=CC(=C1)C)C | C10H13NO2
